US06140100
To a 50 mL 3-necked flask equipped with a magnetic stirrer and a nitrogen inlet were added 0.12 g of methyl N-(4-(((2,4-diamino-6-pteridinyl)methyl)methylamino)benzoyl)-5-O-methyl-L-glutam-1-yl)-2-(methoxycarbonyl)-L-phenylalaninate and 10 mL of 1:1 H2O:THF. The mixture was treated with 29 mg of LiOH.H2O (J. T. Baker Chemical Co., Phillipsburg, N.J.) and stirred at RT under nitrogen. After 48 h, analysis by HPLC (C18, 75:25:0.1 H2O:MeCN:TFA) indicated a major new component at k'=1.70 (ca. 90%) and three minor components at K'=0.60, 1.03, and 2.58. The solution was neutralized by dropwise addition of 1 N aqueous HCl and concentrated in vacuo to dryness. The residue was dissolved in 10 mL of MeOH was removed by rotary evaporation and the remaining suspension was frozen and lyophilized to afford 65 mg (45%) of N-(4-(((2,4-diamino-6-pteridinyl)methyl)methylamino)benzoyl)-L-glutam-1-yl)-2-carboxy-L-phenylalanine as a yellow powder, m.p. 160° C. (dec).

reactant | 2-(methoxycarbonyl)-L-phenylalaninate | COC(=O)C1=C(C[C@H](N)C(=O)[O-])C=CC=C1
reactant | LiOH.H2O | 29 mg | O[Li].O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1 N | Cl | ClH
solvent | MeCN | CC#N | C2H3N
solvent | H2O | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | 2-carboxy-L-phenylalanine | C(=O)(O)C1=C(C[C@H](N)C(=O)O)C=CC=C1 | C10H11NO4
